US05736568
A mixture of 4-{N-[2-(4-chloro-2-dimethylaminomethylphenoxy) ethyl]-N-[methyl]aminomethyl}benzonitrile (10.16 g), powdered potassium hydroxide (20.0 g) and tert-butanol (100 ml) was boiled under reflux for 30 minutes. The mixture was cooled to ambient temperature and poured into saturated brine (300 ml). The mixture was extracted with dichloromethane to give an oil which was dissolved in hot acetonitrile and cooled to yield a precipitate which was collected by filtration and recrystallised from ethyl acetate/petroleum ether b.p. 60°-80° C., to give 4-{N-[2-(4-chloro-2-dimethylaminomethylphenoxy) ethyl]-N-[methyl]aminomethyl}benzamide, m.p. 108°-109° C.

reactant | 4-{N-[2-(4-chloro-2-dimethylaminomethylphenoxy) ethyl]-N-[methyl]aminomethyl}benzonitrile | 10.16 g | ClC1=CC(=C(OCCN(C)CC2=CC=C(C#N)C=C2)C=C1)CN(C)C | C20H24ClN3O
reactant | potassium hydroxide | 20.0 g | [OH-].[K+]
reactant | tert-butanol | 100 ml | C(C)(C)(C)O | C4H10O
solvent | brine | 300 ml | [Cl-].[Na+].O
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-{N-[2-(4-chloro-2-dimethylaminomethylphenoxy) ethyl]-N-[methyl]aminomethyl}benzamide | ClC1=CC(=C(OCCN(C)CC2=CC=C(C(=O)N)C=C2)C=C1)CN(C)C | C20H26ClN3O2
